US05136868
A stirred mixture of 0.87 g (0.0034 mole) of 1-(2,4-difluoro-5-hydroxyphenyl)-1,4-dihydro-4-propyl-5H-tetrazol-5-one, 0.7 g (0.0051 mole) of potassium carbonate, and 1.2 g (0.007 mole) of 2-iodopropane in 40 mL of acetone was heated at reflux for approximately 18 hours. The mixture was cooled, filtered, and the solvent evaporated under reduced pressure to leave an oil. The oil was purified by filtration through a small amount of silica gel followed by crystallization from heptane to yield 0.38 g of 1-[2,4-difluoro-5-(1-methylethoxy)phenyl]-1,4-dihydro-4-propyl-5H-tetrazol-5-one, mp 76.5°-77° C..

reactant | 1-(2,4-difluoro-5-hydroxyphenyl)-1,4-dihydro-4-propyl-5H-tetrazol-5-one | 0.0034 mole, 0.87 g | FC1=C(C=C(C(=C1)F)O)N1N=NN(C1=O)CCC | C10H10F2N4O2
reactant | potassium carbonate | 0.0051 mole, 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 0.007 mole, 1.2 g | IC(C)C | C3H7I
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | 1-[2,4-difluoro-5-(1-methylethoxy)phenyl]-1,4-dihydro-4-propyl-5H-tetrazol-5-one | 0.38 g | FC1=C(C=C(C(=C1)F)OC(C)C)N1N=NN(C1=O)CCC | C13H16F2N4O2
